* Z:\mnt\design.r\spice\examples\ADP2300.asc
V1 IN 0 12
L1 N002 OUT 6.8µ
C1 OUT 0 10µ
C2 N001 N002 100n
R1 OUT N003 69.8K
R2 N003 0 13.3K
D1 0 N002 MBRS340
XU1 IN IN N001 N002 N003 0 ADP2300_1 FREQ=0 CSGain=0.25
Rload OUT 0 10
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 2m startup
.lib ADP2300_1.sub
.backanno
.end
